US07985755B2
Step 3: [4-(2-Fluorobenzyl)cyclohexyl]methanol (Method H)
In a dry 50 mL 1 neck round bottom flask, lithium aluminium hydride (150 mg; 4.0 mmol) was suspended in dry tetrahydrofuran at 0° C. under nitrogen flow. Dissolved 4-(2-fluorobenzyl)cyclohexanecarboxylic acid methyl ester was added over 2 minutes and mixture was allowed to warm to room temperature. After 3 hours at room temperature, Reaction was quenched with at 0° C. with 0.15 mL of water. After 20 minutes, 0.15 mL of 15% NaOH was added. Finally, 0.45 mL of water was added and continued to stir at 0° C. for 20 minutes. White precipitate was filtered off and rinsed twice with 10 mL ethyl acetate each. Filtrate was concentrated to an oil. Oil was purified by flash chromatography (13:1) and eluted with 10-15% ethyl acetate in hexanes to give 161 mg of title compound. (73% yield).

reactant | lithium aluminium hydride | 4.0 mmol, 150 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(2-fluorobenzyl)cyclohexanecarboxylic acid methyl ester | COC(=O)C1CCC(CC1)CC1=C(C=CC=C1)F | C15H19FO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [4-(2-Fluorobenzyl)cyclohexyl]methanol | 161 mg, 73% yield | FC1=C(CC2CCC(CC2)CO)C=CC=C1 | C14H19FO
